US09024027B2
A suspension of ethyl 2-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetate (248 mg, 0.626 mmol) and LiOH (74.9 mg, 3.13 mmol) in THF/water 1/1 (10 ml) was stirred at room temperature for 30 minutes. The mixture was diluted with ethyl acetate and carefully acidified by slow addition of 1N HCl (pH=1). The phases were separated and the aqueous layer was extracted with ethyl acetate; the combined organic layers were dried over Na2SO4 and evaporated to dryness to give 2-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetic acid as a yellow solid (220 mg, 0.597 mmol, 95% yield). MS/ESI+ 369.1 [MH]+.

reactant | ethyl 2-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetate | 0.626 mmol, 248 mg | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=CN(C2=CC=CC=C12)CC(=O)OCC | C18H24N2O6S
reactant | LiOH | 3.13 mmol, 74.9 mg | [Li+].[OH-]
reactant | HCl | 1N, pH=1 | Cl | ClH
solvent | THF H2O | 10 ml | C1CCOC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-(N-(tert-butoxycarbonyl)methylsulfonamido)-1H-indol-1-yl)acetic acid | 0.597 mmol, 220 mg, 95% yield | C(C)(C)(C)OC(=O)N(S(=O)(=O)C)C1=CN(C2=CC=CC=C12)CC(=O)O | C16H20N2O6S
